US07585885B2
N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(3-trifluoromethoxy-benzyloxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride
Add 4M hydrogen chloride in dioxane (5 mL) to (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-trifluoromethoxy-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.138 g, 0.22 mmol). Stir 18 h and concentrate to give the title compound as a foam (0.11 g, 100%).

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-trifluoromethoxy-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.22 mmol, 0.138 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC1=CC(=CC=C1)OC(F)(F)F)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C31H37F5N2O6
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(3-trifluoromethoxy-benzyloxy)-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride | 0.11 g, 100% | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@@H](C2)OCC2=CC(=CC=C2)OC(F)(F)F)O)NC(C)=O)C=C(C1)F | InChI=1S/C23H25F5N2O4.ClH/c1-13(31)30-21(8-15-5-16(24)9-17(25)6-15)22(32)20-10-19(11-29-20)33-12-14-3-2-4-18(7-14)34-23(26,27)28;/h2-7,9,19-22,29,32H,8,10-12H2,1H3,(H,30,31);1H/t19-,20-,21+,22-;/m1./s1
